US07361671B2
A solution of 5-cyanomethyl-thiophene-3-carboxylic acid methyl ester (4.4 g, 22.1 mmol) and NHCO3 (4.1 g, 48.6 mmol) in water (35 mL) and ethanol (35 mL) is heated to reflux for 4 h. After cooling, the reaction mixture is diluted with water and washed with ether. The aqueous layer is acidified with 1 N HCl and extracted with dichloromethane (4×). The combined organic layers are washed with saturated aq NaCl, dried over Na2SO4, filtered and concentrated in vacuo to give 5-cyanomethyl-thiophene-3-carboxylic acid (2.7 g, 73%) as a light yellow solid: mp 154-159° C.; 1H NMR (DMSO-d6, 300 MHz) δ 12.72 (s, 1 H), 8.20 (s, 1 H), 7.30 (s, 1 H), 4.23 (s, 2 H).

reactant | 5-cyanomethyl-thiophene-3-carboxylic acid methyl ester | 22.1 mmol, 4.4 g | COC(=O)C1=CSC(=C1)CC#N | C8H7NO2S
solvent | water | 35 mL | O | H2O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 5-cyanomethyl-thiophene-3-carboxylic acid | 2.7 g, 73% | C(#N)CC1=CC(=CS1)C(=O)O | C7H5NO2S
